US06653471B2
To a solution of 9.45 g (0.026 m) of [3-amino-6-methoxy-pyridin-2-yl]-[toluene-4-sulfonyl]-acetic acid ethyl ester dissolved in 150 mL of methylene chloride is added 150 mL of saturated sodium bicarbonate followed by 5.56 mL (0.038 m) of carbo-benzyloxy chloride. The reaction mixture is stirred for 20 hours at room temperature. The water layer is separated from the organic layer and the organic layer is dried (Na2SO4) and evaporated to yield 15.73 grams of [3-benzyloxycarbonylamino-6-methoxy-pyridin-2-yl]-[toluene-4-sulfonyl]-acetic acid ethyl ester as a yellow solid. 1H NMR (CDCl3) δ7.8 (m, 1H), 7.6 (m, 1H), 7.3 (m,10H), 6.7 (m, 1H), 5.2 (m, 3H), 4.0 (m, 2H), 3.3 (s, 3H), 3.1 (m, 2H), 1.1 (m, 3H) TLC (7/3 hexanes/ethyl acetate) Rf=0.6.

reactant | [3-amino-6-methoxy-pyridin-2-yl]-[toluene-4-sulfonyl]-acetic acid ethyl ester | 9.45 g | C(C)OC(C(S(=O)(=O)C1=CC=C(C=C1)C)C1=NC(=CC=C1N)OC)=O | C17H20N2O5S
reactant | sodium bicarbonate | 150 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | [3-benzyloxycarbonylamino-6-methoxy-pyridin-2-yl]-[toluene-4-sulfonyl]-acetic acid ethyl ester | 15.73 grams | C(C)OC(C(S(=O)(=O)C1=CC=C(C=C1)C)C1=NC(=CC=C1NC(=O)OCC1=CC=CC=C1)OC)=O | C25H26N2O7S
